US09371281B2
A mixture of 1-methyl-3-(4-nitro-phenylmethyl)-1H-indole-5-carboxylic acid methyl ester (0.23 g, 0.71 mmol), Pd (10% on carbon, 30 mg) and methanol (5 mL) was stirred under a hydrogen atmosphere (ballon) for 6 hr. The catalyst was removed by filtration and the solvents removed in vacuo to provide of 3-(4-amino-benzyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester (0.19 g, 92% yield).

reactant | 1-methyl-3-(4-nitro-phenylmethyl)-1H-indole-5-carboxylic acid methyl ester | 0.71 mmol, 0.23 g | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H16N2O4
catalyst | Pd | 30 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 3-(4-amino-benzyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester | 0.19 g, 92% yield | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)N | C18H18N2O2
